US07498329B2
5-Bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine
2-Amino-5-bromopyridine (6.0 Kg, 34.7 mol), 2,5-hexanedione (4.35 Kg, 38.2 mol) and p-toluenesulfonic acid (12 g) were dissolved in heptane (36 L) and refluxed under Dean Stark conditions overnight. The equipment was set for distillation and heptane (18 L) was removed by distillation. The mixture was cooled to 20° C. for 60 minutes. Seed crystals were added and the mixture granulated at 20° C. for 2 hours and then at 5° C. overnight. The product was collected by filtration, washed with heptane (2×6 L) and dried at 45° C. under vacuum overnight. Yield=80% (7.0 Kg) δH (CDCl3 300 MHz) 2.20 (6H, s), 5.95 (2H, s), 7.15 (1H, d), 7.95 (1H, d), 8.70 (1H, s) ppm. MS m/z 253 (MH+, Br isotope).

reactant | 2-Amino-5-bromopyridine | 34.7 mol, 6.0 Kg | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 2,5-hexanedione | 38.2 mol, 4.35 Kg | CC(CCC(C)=O)=O | C6H10O2
reactant | p-toluenesulfonic acid | 12 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | heptane | 36 L | CCCCCCC | C7H16
product | 5-Bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine | Yield=80% | BrC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11BrN2
